US04016193
Methyl 3-nitro-4-methallyloxyphenylacetate
A mixture of 2.11g of methyl 3-nitro-4-hydroxyphenylacetate, 2.27g of methallyl p-toluenesulfonate was refluxed for one hour in 60ml of methanol containing natrium methoxide (natrium 0.25g). The reaction mixture was concentrated under reduced pressure and ethyl acetate and water were added to the residue. The ethyl acetate layer was isolated, and washed with water. After the extract was dried over magnesium sulfate, the solvent was distilled off and the residue was recrystallied from methanol to give the object compound having m.p. 30°- 31.5° C in a yield of 1.98g (74%).

reactant | methyl 3-nitro-4-hydroxyphenylacetate | 2.11g | [N+](=O)([O-])C=1C=C(C=CC1O)CC(=O)OC | C9H9NO5
reactant | methallyl p-toluenesulfonate | 2.27g | C1(=CC=C(C=C1)S(=O)(=O)OCC(C)=C)C | C11H14O3S
reactant | natrium methoxide | 0.25g | C[O-].[Na+]
solvent | methanol | 60ml | CO | CH4O
product | Methyl 3-nitro-4-methallyloxyphenylacetate | [N+](=O)([O-])C=1C=C(C=CC1OCC(C)=C)CC(=O)OC | C13H15NO5
